US04061670
Preparation of 1-Iodo-4-trimethylsiloxy-trans-1-octene
To a stirred solution of 0.20 moles of freshly prepared bis-(3-methyl-2-butyl)borane in 300 ml of tetrahydrofuran at 0°-5° C is added dropwise a solution of 19.8 g of 4-trimethylsiloxy-1-octyne in 30 ml of tetrahydrofuran. The resulting mixture is stirred at ambient temperature for several hours, cooled in an ice bath, and treated with 53 g of trimethylamine oxide. The mixture is stirred several hours at 25°-40° C and then poured into 2 liters of 15% sodium hydroxide. The resulting mixture is treated immediately with a solution of 140 g of iodine in 300 ml of tetrahydrofuran. After 0.5 hour the organic phase is separated and the aqueous phase is extracted with ether. The combined organic layers are washed with water, sodium thiosulfate solution, and brine; dried over magnesium sulfate; and concentrated to give an oil, pmr spectrum (CDCl3): 6.2 (d, ICH=) and 6.7 (quintuplet, =CH-).

reactant | bis-(3-methyl-2-butyl)borane | CC(C(C)BC(C)C(C)C)C | C10H23B
reactant | 4-trimethylsiloxy-1-octyne | 19.8 g | C[Si](OC(CC#C)CCCC)(C)C | C11H22OSi
reactant | trimethylamine oxide | 53 g | C[N+](C)(C)[O-] | C3H9NO
reactant | sodium hydroxide | 2 liters | [OH-].[Na+]
reactant | iodine | 140 g | II | I2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-Iodo-4-trimethylsiloxy-trans-1-octene | I\C=C\CC(CCCC)O[Si](C)(C)C | C11H23IOSi
